US07618960B2
Synthesis of 2-[1-(3,4,5-trifluorophenyl)ethylamino]ethanol
A mixture of 3,4,5-trifluoroacetophenone (2.0 g), ethanolamine (2.0 g), and toluene (20 mL) was heated under reflux in a Dean-Stark apparatus for 2.5 hours. The reaction solution was concentrated under reduced pressure, and then the residue was diluted with ethanol (30 mL) and sodium borohydride (1.0 g) was added under ice-cooling. The mixture was stirred at room temperature for three hours and then diluted with a 2 N sodium hydroxide solution and chloroform. Thereafter, the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (chloroform:methanol=50:1 to 5:1) to obtain 860 mg of the title compound.

reactant | 3,4,5-trifluoroacetophenone | 2.0 g | CC(=O)C1=CC(=C(C(=C1)F)F)F | C8H5F3O
reactant | ethanolamine | 2.0 g | C(O)CN | C2H7NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(3,4,5-trifluorophenyl)ethylamino]ethanol | 860 mg | FC=1C=C(C=C(C1F)F)C(C)NCCO | C10H12F3NO
